US04876354
3-Fluorophenyl-(2-hydroxy-2-adamantyl)-1-imidazolylmethane
55 ml (85 mmol) of a 1.55 molar solution of n-butyllithium in hexane were added dropwise to a solution of 7.04 g (40 mmol) of N-(3-fluorobenzyl)-imidazole and 4.65 g (40 mmol) of N,N,N',N'-tetramethylethylenediamine (TMEDA) in 90 ml of absolute tetrahydrofuran (THF) at -70° C. The mixture was stirred for a further 20 minutes at -70° C., and a solution of 6.01 g (40 mmol) of adamantanone in 30 ml of absolute tetrahydrofuran (THF) was then added dropwise at -70° C. in the course of about 15 minutes. Stirring was then continued for 15 minutes at about -70° C., the reaction mixture was allowed to warm up to room temperature in the course of about 2 hours, 200 ml of water were added at about 5°-18° C., while cooling, and the mixtures was extracted with CH2CL2. The combined CH2Cl2 extracts were dried, filtered, and evaporated down in vacuo. The residue of the extract was dissolved in acetonitrile, after which crystalline 3-fluorophenyl-(2-hydroxy-2-adamantyl)-imidazolylmethane was precipitated in pure form. After the crystalline product had been filtered off under suction and washed thoroughly with acetonitrile, 8.70 g of pure product of melting point 191° C. were obtained.

reactant | n-butyllithium | C(CCC)[Li]
reactant | N-(3-fluorobenzyl)-imidazole | 40 mmol, 7.04 g | FC=1C=C(CN2C=NC=C2)C=CC1 | C10H9FN2
reactant | N,N,N',N'-tetramethylethylenediamine | 40 mmol, 4.65 g | CN(CCN(C)C)C | C6H16N2
reactant | adamantanone | 40 mmol, 6.01 g | C12C(C3CC(CC(C1)C3)C2)=O | C10H14O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | 200 ml | O | H2O
product | 3-Fluorophenyl-(2-hydroxy-2-adamantyl)-1-imidazolylmethane | FC=1C=C(C=CC1)C(C=1NC=CN1)C1(C2CC3CC(CC1C3)C2)O | C20H23FN2O
